US09371314B2
A solution of sodium (meta)periodate (7.751 g, 1.1 eq) in water (40 mL) was slowly poured into a solution of 2,2,3,3,13,13,14,14-octamethyl-4,12-dioxa-8-thia-3,13-disilapentadecane, (12.32 g, 1 eq) in methanol (150 mL) at 0° C. and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was then filtered through a pad of celite and silica gel which was washed with methanol. The filtrate was concentrated under reduced pressure at a temperature below 25° C. The residue was diluted with brine and extracted a couple of times with chloroform. All organic solvents were combined, dried with anhydrous sodium sulfate, and concentrated to give a clear oil as crude 2,2,3,3,13,13,14,14-octamethyl-4,12-dioxa-8-thia-3,13-disilapentadecane 8-oxide, in amount of 12.84 g.

reactant | sodium (meta)periodate | 7.751 g, 1.1 eq | [O-]I(=O)(=O)=O.[Na+]
reactant | 2,2,3,3,13,13,14,14-octamethyl-4,12-dioxa-8-thia-3,13-disilapentadecane | 12.32 g, 1 eq | CC(C)([Si](OCCCSCCCO[Si](C(C)(C)C)(C)C)(C)C)C | C18H42O2SSi2
solvent | water | 40 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | 2,2,3,3,13,13,14,14-octamethyl-4,12-dioxa-8-thia-3,13-disilapentadecane 8-oxide | CC(C)([Si](OCCCS(CCCO[Si](C(C)(C)C)(C)C)=O)(C)C)C | C18H42O3SSi2
